US04145432
To a solution of diethyl 2-methyl-4-(3-nitrophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (462.5 mg) in acetone (4 ml) was added 6N-hydrochloride acid (0.4 ml) and stirred at room temperature for an hour. After the reaction, the solvent was removed from the resultant solution. To the residue was added water, and the residue was pulverized. The powder was collected by filtration, washed with water and dried to give diethyl 2-methyl-4-(3-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (360 mg), m.p. 130° to 133° C.

reactant | diethyl 2-methyl-4-(3-nitrophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 462.5 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C23H30N2O8
reactant | hydrochloride | 0.4 ml | Cl | ClH
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | diethyl 2-methyl-4-(3-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 360 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O7
